US04474793
4-Nitrobenzyl 3-ethylthio-6(S)-[1(R)hydroxyethyl]-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-en-2-carboxylate
To 0.200 ml of ethyl diisopropylamine was added to 0.426 g of 4-nitrobenzyl 6(S)-[1(R)-hydroxyethyl]-7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane-2-carboxylate in dry tetrahydrofuran with stirring. 0.252 ml of iodoethane was then added and stirring was continued for 16 hours at room temperature. The reaction mixture was then evaporated to dryness and chromatographed on silica gel, eluting with ethyl acetate/hexane mixtures, to give the title product as a mixture of 5R and 5S isomers.

reactant | ethyl diisopropylamine | 0.200 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4-nitrobenzyl 6(S)-[1(R)-hydroxyethyl]-7-oxo-3-thioxo-4-thia-1-azabicyclo[3,2,0]heptane-2-carboxylate | 0.426 g | O[C@H](C)[C@@H]1C2SC(C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=S | C15H14N2O6S2
reactant | iodoethane | 0.252 ml | ICC | C2H5I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Nitrobenzyl 3-ethylthio-6(S)-[1(R)hydroxyethyl]-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-en-2-carboxylate | C(C)SC1=C(N2C([C@@H](C2S1)[C@@H](C)O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C17H18N2O6S2
